US05086074
5,6-Dihydroxy-1-tetralone
To a solution 5,6-dimethoxy-1-tetralone (100 g) in toluene (958 ml) was added aluminum chloride (200 g) in small portions. After the addition was complete the reaction was heated to 80° C. and mechanically stirred for 2 hours. The reaction was cooled and slowly poured into ice and concentrated HCl. The resulting solids were filtered and washed with cold dilute HCl. The resulting solids were taken up into monoglyme, dried (MgSO4), filtered treated with charcoal, refiltered and concentrated. The residue was co-concentrated with acetonitrile to provide upon cooling 82.5 g of desired product as an off white solid, m.p. 191° C.-194° C.

reactant | 5,6-dimethoxy-1-tetralone | 100 g | COC1=C2CCCC(C2=CC=C1OC)=O | C12H14O3
reactant | aluminum chloride | 200 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | toluene | 958 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-Dihydroxy-1-tetralone | 82.5 g | OC1=C2CCCC(C2=CC=C1O)=O | C10H10O3
